US07977370B2
2-[2-(1H-indol-3-yl)ethyl]indan-1,3-dione
Tryptamine (3.09 g; 19 mmol) was dissolved in toluol (300 ml). Phthalic anhydride (3 g; 20.2 mmol) was then added. The yellow reaction solution was boiled with reflux for 7 h (water separator). The course of the reaction was controlled by DC. For work up toluol was distilled off completely. The remaining yellow solid was recrystallised from cyclohexane/chloroform (1:1). 4.796 g (90%) of the product were obtained.

reactant | Tryptamine | 19 mmol, 3.09 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | Phthalic anhydride | 20.2 mmol, 3 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | water | O | H2O
reactant | toluol | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(1H-indol-3-yl)ethyl]indan-1,3-dione | 4.796 g, 90% | N1C=C(C2=CC=CC=C12)CCC1C(C2=CC=CC=C2C1=O)=O | C19H15NO2
